US04309558
Zero point eight nine mol of 1-hexene and 0.1 mol % (relative to dichlorosilane) of catalyst NiCl2 (PPh3)2 were introduced into a 500 ml pressure-proof stainless reactor and after closing said reactor, was cooled in a dry ice-methanol bath. After introducing 0.64 mol of dichlorosilane through an introducing pipe, the reactor was sealed and reaction was carried out with stirring in an oil bath at 110° C. for one hour to produce n-hexyldichlorosilane (n-C6H13SiHCl2). After reaction, n-C6H13SiHCl2 having a boiling point of 100°-102° C./100 mmHg and nD20 of 1.4412 was obtained by distillation. The yield was as shown in Table 1 and there was no by-product formed.

reactant | 1-hexene | C=CCCCC | C6H12
reactant | dichlorosilane | Cl[SiH2]Cl | Cl2H2Si
reactant | dichlorosilane | 0.64 mol | Cl[SiH2]Cl | Cl2H2Si
product | n-hexyldichlorosilane | C(CCCCC)[SiH](Cl)Cl | C6H14Cl2Si
